** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=14e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=19e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=3e-6 W=126e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=38e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=165e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=576e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=427e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=7e-6 W=294e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=3e-6 W=266e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=3e-6 W=126e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=58e-6
mNormalTransistorPmos12 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=576e-6
mNormalTransistorPmos13 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=229e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=65e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=229e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos17 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=165e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_5

** Expected Performance Values: 
** Gain: 106 dB
** Power consumption: 6.32101 mW
** Area: 9596 (mu_m)^2
** Transit frequency: 52.3891 MHz
** Transit frequency with error factor: 52.332 MHz
** Slew rate: 65.0228 V/mu_s
** Phase margin: 59.5877°
** CMRR: 104 dB
** negPSRR: 106 dB
** posPSRR: 227 dB
** VoutMax: 3.64001 V
** VoutMin: 0.150001 V
** VcmMax: 4.07001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorNmos: 237.075 muA
** NormalTransistorPmos: -17.1579 muA
** NormalTransistorPmos: -15.3909 muA
** DiodeTransistorNmos: 80.1011 muA
** NormalTransistorNmos: 80.1021 muA
** NormalTransistorNmos: 80.1011 muA
** NormalTransistorPmos: -160.2 muA
** NormalTransistorPmos: -80.1009 muA
** NormalTransistorPmos: -80.1009 muA
** NormalTransistorNmos: 814.34 muA
** NormalTransistorPmos: -814.339 muA
** DiodeTransistorPmos: -814.34 muA
** DiodeTransistorNmos: 17.1571 muA
** DiodeTransistorNmos: 15.3901 muA
** DiodeTransistorPmos: -237.074 muA
** NormalTransistorPmos: -237.075 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.26401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 3.07401  V
** outSourceVoltageBiasXXpXX1: 4.03701  V
** outVoltageBiasXXnXX0: 0.583001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.26101  V
** inner: 4.03701  V


.END