** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=60e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=47e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=99e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=596e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=34e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=195e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=34e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=61e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=61e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=593e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=344e-6
mNormalTransistorPmos14 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=99e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=289e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=289e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=289e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=573e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_10

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 13.2781 mW
** Area: 5271 (mu_m)^2
** Transit frequency: 24.1581 MHz
** Transit frequency with error factor: 24.1344 MHz
** Slew rate: 19.9551 V/mu_s
** Phase margin: 55.004°
** CMRR: 98 dB
** VoutMax: 4.25 V
** VoutMin: 0.170001 V
** VcmMax: 4.13001 V
** VcmMin: -0.389999 V


** Expected Currents: 
** NormalTransistorNmos: 477.21 muA
** NormalTransistorPmos: -247.119 muA
** NormalTransistorPmos: -145.33 muA
** NormalTransistorNmos: 86.6931 muA
** NormalTransistorNmos: 147.753 muA
** NormalTransistorNmos: 86.6931 muA
** NormalTransistorNmos: 147.753 muA
** DiodeTransistorPmos: -86.6939 muA
** NormalTransistorPmos: -86.6939 muA
** NormalTransistorPmos: -122.114 muA
** NormalTransistorPmos: -61.0579 muA
** NormalTransistorPmos: -61.0579 muA
** NormalTransistorNmos: 1470.49 muA
** NormalTransistorPmos: -1470.48 muA
** NormalTransistorPmos: -1470.48 muA
** DiodeTransistorNmos: 247.12 muA
** DiodeTransistorNmos: 145.331 muA
** DiodeTransistorPmos: -477.209 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.28301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.948001  V
** inputVoltageBiasXXnXX2: 0.575001  V
** out: 2.5  V
** outFirstStage: 4.05601  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.05101  V
** sourceGCC1: 0.370001  V
** sourceGCC2: 0.370001  V
** sourceTransconductance: 3.21801  V
** innerTransconductance: 4.61901  V


.END