** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_2

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_2 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=260e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=25e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=340e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=283e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=131e-6
mNormalTransistorNmos7 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=131e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=214e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=214e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=575e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=547e-6
mNormalTransistorPmos12 out ibias sourcePmos sourcePmos pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=340e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=578e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=274e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=274e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=351e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_2

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 12.0651 mW
** Area: 13901 (mu_m)^2
** Transit frequency: 26.2191 MHz
** Transit frequency with error factor: 26.1337 MHz
** Slew rate: 38.0718 V/mu_s
** Phase margin: 55.004°
** CMRR: 85 dB
** VoutMax: 4.77001 V
** VoutMin: 0.300001 V
** VcmMax: 3.77001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -523.825 muA
** NormalTransistorPmos: -495.203 muA
** NormalTransistorNmos: 249.507 muA
** NormalTransistorNmos: 411.308 muA
** NormalTransistorNmos: 249.507 muA
** NormalTransistorNmos: 411.308 muA
** DiodeTransistorPmos: -249.506 muA
** NormalTransistorPmos: -249.506 muA
** NormalTransistorPmos: -323.602 muA
** NormalTransistorPmos: -161.801 muA
** NormalTransistorPmos: -161.801 muA
** NormalTransistorNmos: 551.324 muA
** NormalTransistorNmos: 551.323 muA
** NormalTransistorPmos: -551.323 muA
** DiodeTransistorNmos: 523.826 muA
** DiodeTransistorNmos: 495.204 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.555001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX1: 0.905001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 3.82601  V
** sourceGCC1: 0.350001  V
** sourceGCC2: 0.350001  V
** sourceTransconductance: 3.50801  V
** innerTransconductance: 0.348001  V


.END