** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=113e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=17e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=201e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=104e-6
mNormalTransistorNmos7 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=104e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=256e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=256e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=368e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=344e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=201e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=458e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=72e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=72e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=554e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_7

** Expected Performance Values: 
** Gain: 74 dB
** Power consumption: 13.1731 mW
** Area: 5818 (mu_m)^2
** Transit frequency: 23.7231 MHz
** Transit frequency with error factor: 23.5635 MHz
** Slew rate: 84.2729 V/mu_s
** Phase margin: 55.004°
** CMRR: 85 dB
** VoutMax: 4.57001 V
** VoutMin: 0.150001 V
** VcmMax: 3.56001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -269.832 muA
** NormalTransistorPmos: -215.223 muA
** NormalTransistorNmos: 322.463 muA
** NormalTransistorNmos: 487.586 muA
** NormalTransistorNmos: 322.463 muA
** NormalTransistorNmos: 487.586 muA
** DiodeTransistorPmos: -322.462 muA
** NormalTransistorPmos: -322.462 muA
** NormalTransistorPmos: -330.243 muA
** NormalTransistorPmos: -165.121 muA
** NormalTransistorPmos: -165.121 muA
** NormalTransistorNmos: 1154.32 muA
** NormalTransistorPmos: -1154.31 muA
** DiodeTransistorNmos: 269.833 muA
** DiodeTransistorNmos: 215.224 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.555001  V
** out: 2.5  V
** outFirstStage: 4.00101  V
** outVoltageBiasXXnXX1: 0.946001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.01101  V
** sourceGCC1: 0.350001  V
** sourceGCC2: 0.350001  V
** sourceTransconductance: 3.68201  V


.END