** Name: SimpleTwoStageOpAmp_SimpleOpAmp44_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp44_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=463e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos7 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=175e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=175e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=317e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=587e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=392e-6
mNormalTransistorPmos14 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=463e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=106e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=106e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp44_7

** Expected Performance Values: 
** Gain: 114 dB
** Power consumption: 14.9991 mW
** Area: 4913 (mu_m)^2
** Transit frequency: 27.4511 MHz
** Transit frequency with error factor: 27.45 MHz
** Slew rate: 96.6141 V/mu_s
** Phase margin: 55.004°
** CMRR: 133 dB
** VoutMax: 4.45001 V
** VoutMin: 0.180001 V
** VcmMax: 3.59001 V
** VcmMin: -0.379999 V


** Expected Currents: 
** NormalTransistorPmos: -262.833 muA
** NormalTransistorPmos: -28.0669 muA
** NormalTransistorNmos: 288.467 muA
** NormalTransistorNmos: 492.271 muA
** NormalTransistorNmos: 288.466 muA
** NormalTransistorNmos: 492.27 muA
** NormalTransistorPmos: -288.466 muA
** NormalTransistorPmos: -288.465 muA
** DiodeTransistorPmos: -288.466 muA
** NormalTransistorPmos: -407.608 muA
** NormalTransistorPmos: -203.804 muA
** NormalTransistorPmos: -203.804 muA
** NormalTransistorNmos: 1704.46 muA
** NormalTransistorPmos: -1704.45 muA
** DiodeTransistorNmos: 262.836 muA
** DiodeTransistorNmos: 28.0681 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.24201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.588001  V
** out: 2.5  V
** outFirstStage: 3.88501  V
** outVoltageBiasXXnXX1: 0.965001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.25  V
** out1: 3.52101  V
** sourceGCC1: 0.383001  V
** sourceGCC2: 0.383001  V
** sourceTransconductance: 3.71701  V


.END