** Name: SimpleTwoStageOpAmp_SimpleOpAmp44_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp44_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=13e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=315e-6
mNormalTransistorNmos5 out outInputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage outInputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos7 FirstStageYout1 outInputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=44e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=44e-6
mNormalTransistorNmos10 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=276e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=323e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=338e-6
mNormalTransistorPmos13 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=165e-6
mNormalTransistorPmos14 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=315e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=435e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=435e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=466e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp44_8

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 10.1941 mW
** Area: 11802 (mu_m)^2
** Transit frequency: 23.1591 MHz
** Transit frequency with error factor: 23.1581 MHz
** Slew rate: 41.7583 V/mu_s
** Phase margin: 55.004°
** CMRR: 131 dB
** VoutMax: 4.49001 V
** VoutMin: 1 V
** VcmMax: 3.95001 V
** VcmMin: -0.209999 V


** Expected Currents: 
** NormalTransistorPmos: -68.6579 muA
** NormalTransistorNmos: 137.835 muA
** NormalTransistorNmos: 236.289 muA
** NormalTransistorNmos: 137.832 muA
** NormalTransistorNmos: 236.284 muA
** NormalTransistorPmos: -137.832 muA
** NormalTransistorPmos: -137.831 muA
** DiodeTransistorPmos: -137.832 muA
** NormalTransistorPmos: -196.904 muA
** NormalTransistorPmos: -98.4529 muA
** NormalTransistorPmos: -98.4529 muA
** NormalTransistorNmos: 1477.53 muA
** NormalTransistorNmos: 1477.53 muA
** NormalTransistorPmos: -1477.52 muA
** DiodeTransistorNmos: 68.6571 muA
** DiodeTransistorNmos: 68.6561 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.28301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.92801  V
** outInputVoltageBiasXXnXX1: 1.61401  V
** outSourceVoltageBiasXXnXX1: 0.760001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.27901  V
** out1: 3.56401  V
** sourceGCC1: 0.725001  V
** sourceGCC2: 0.725001  V
** sourceTransconductance: 3.40001  V
** innerStageBias: 0.969001  V


.END